US08871332B2
Similar operations as in Example 1 were carried out except that 0.13 g (1.3 mmols) of methyl methacrylate was changed to 0.10 g (1.0 mmols) of methyl methacrylate and 0.036 g (0.25 mmols) of tert-butyl methacrylate, thereby obtaining 0.28 g (yield ratio: 19%) of BHFC/methyl methacrylate/tert-butyl methacrylate copolymer (molar ratios=56:32:12). The weight average molecular weight Mw, determined by GPC, and 1H NMR of the thus obtained polymer are indicated below.

reactant | methyl methacrylate | 1.3 mmols, 0.13 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl methacrylate | 1.0 mmols, 0.10 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | tert-butyl methacrylate | 0.25 mmols, 0.036 g | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
product | methyl methacrylate tert-butyl methacrylate | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)OC(C)(C)C | InChI=1S/C8H14O2.C5H8O2/c1-6(2)7(9)10-8(3,4)5;1-4(2)5(6)7-3/h1H2,2-5H3;1H2,2-3H3
